US07109199B2
N-(5-Pyridin-3-yl-1H-pyrazolo[3,4-b]pyridin-3-yl)butyramide
Pd(PPh3)4 (30 mg) was added to a degassed solution of N-(5-bromo-1H-pyrazolo[3,4-b]pyridin-3-yl-butyramide (Description 6; 150 mg, 0.5 mmol), 3-pyridyl boronic acid (95 mg, 0.8 mmmol), aq. Na2CO3 (0.75 ml, 2M) in ethanol (0.75 ml) and DMF (1.5 ml). The mixture was stirred at reflux for 12 hours, cooled and then water was added. The resulting solids were filtered and purified by column chromatography (5% MeOH/CHCl3) affording the title compound as a powder.

reactant | 5-bromo-1H-pyrazolo[3,4-b]pyridin-3-yl-butyramide | 0.5 mmol, 150 mg | BrC=1C=C2C(=NC1)NN=C2C(C(=O)N)CC | C10H11BrN4O
reactant | 3-pyridyl boronic acid | 95 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | Na2CO3 | 2M, 0.75 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water | O | H2O
reactant | DMF | 1.5 ml | CN(C)C=O | C3H7NO
solvent | ethanol | 0.75 ml | C(C)O | C2H6O
catalyst | Pd(PPh3)4 | 30 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-(5-Pyridin-3-yl-1H-pyrazolo[3,4-b]pyridin-3-yl)butyramide | N1=CC(=CC=C1)C=1C=C2C(=NC1)NN=C2NC(CCC)=O | C15H15N5O
